### PR TITLE
[Merged by Bors] - feat(Analysis/Analytic): some more API for analytic functions

### PR DESCRIPTION
**Pull request by loefflerd**
This PR adds some basic results about analytic functions: products of analytic functions are analytic, and the inverse map on a normed field is analytic away from 0.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean [hunk 1]
```diff
@@ -57,12 +57,6 @@ instance : AddCommGroup (FormalMultilinearSeries 𝕜 E F) :=
 instance : Inhabited (FormalMultilinearSeries 𝕜 E F) :=
   ⟨0⟩
 
-@[simp] -- porting note: new; was not needed in Lean 3
-theorem zero_apply (n : ℕ) : (0 : FormalMultilinearSeries 𝕜 E F) n = 0 := rfl
-
-@[simp] -- porting note: new; was not needed in Lean 3
-theorem neg_apply (f : FormalMultilinearSeries 𝕜 E F) (n : ℕ) : (-f) n = - f n := rfl
-
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean:65]: Moved these simp lemmas inside the `FormalMultilinearSeries` namespace.

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean [hunk 2]
```diff
@@ -344,3 +348,54 @@ theorem constFormalMultilinearSeries_apply [NontriviallyNormedField 𝕜] [Norme
...
+  rfl
+#align continuous_linear_map.fpower_series_apply_add_two ContinuousLinearMap.fpowerSeries_apply_add_two
+
+attribute
+  [eqns fpower_series_apply_zero fpower_series_apply_one fpowerSeries_apply_add_two] fpowerSeries
+attribute [simp] fpowerSeries
+
+end ContinuousLinearMap
+
+end Linear
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean:386]: This material is moved (verbatim) from `Analytic/Basic.lean` (it seems to belong better here since it is purely algebraic, without mentioning radius of convergence, and the other file is very very long).

File: Mathlib/Analysis/Analytic/Linear.lean [hunk 3]
```diff
@@ -27,30 +27,6 @@ noncomputable section
...
-  rfl
-
-theorem fpowerSeries_apply_add_two (f : E →L[𝕜] F) (x : E) (n : ℕ) : f.fpowerSeries x (n + 2) = 0 :=
-  rfl
-#align continuous_linear_map.fpower_series_apply_add_two ContinuousLinearMap.fpowerSeries_apply_add_two
-
-attribute
-  [eqns fpower_series_apply_zero fpower_series_apply_one fpowerSeries_apply_add_two] fpowerSeries
-attribute [simp] fpowerSeries
-
```
Comment (loefflerd) [inline Mathlib/Analysis/Analytic/Linear.lean:53]: I moved this to `FormalMultlinearSeries.lean` (it is purely algebraic so it seems to belong better there)

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 4]
```diff
@@ -366,8 +364,62 @@ theorem radius_le_radius_continuousLinearMap_comp (p : FormalMultilinearSeries 
...
+    rw [lt_min_iff] at hr
+    have := ((p.isLittleO_one_of_lt_radius hr.1).add
+      (q.isLittleO_one_of_lt_radius hr.2)).isBigO
+    refine (p.prod q).le_radius_of_isBigO ((isBigO_of_le _ λ n ↦ ?_).trans this)
+    rw [norm_mul, norm_norm, ←add_mul, norm_mul]
+    refine mul_le_mul_of_nonneg_right ?_ (norm_nonneg _)
+    rw [FormalMultilinearSeries.prod, ContinuousMultilinearMap.op_norm_prod]
+    refine (max_le_add_of_nonneg (norm_nonneg _) (norm_nonneg _)).trans ?_
+    apply Real.le_norm_self
+
```
Comment (loefflerd) [inline Mathlib/Analysis/Analytic/Basic.lean:394]: This proof and the next are a bit convoluted, but I couldn't find a nicer way of doing it.

File: Mathlib/Analysis/Analytic/Linear.lean [hunk 5]
```diff
@@ -149,3 +125,70 @@ protected theorem analyticAt_bilinear (f : E →L[𝕜] F →L[𝕜] G) (x : E 
...
+  (ContinuousLinearMap.id 𝕜 E).analyticAt z
+
+/-- Scalar multiplication is analytic (jointly in both variables). Statement is a little
+pedantic to allow towers of field extensions.
+
+TODO: can we replace `𝕜'` with a "normed module" in such a way that `analyticAt_mul` is a special
+case of this? -/
+lemma analyticAt_smul
+    {𝕝 : Type*} [NormedField 𝕝] [NormedAlgebra 𝕜 𝕝] [NormedSpace 𝕝 E] [IsScalarTower 𝕜 𝕝 E]
+    (z : 𝕝 × E) : AnalyticAt 𝕜 (fun x :𝕝 × E ↦ x.1 • x.2) z :=
```
Comment (jcommelin) [inline Mathlib/Analysis/Analytic/Linear.lean:141]:
```suggestion
    (z : 𝕝 × E) : AnalyticAt 𝕜 (fun x : 𝕝 × E ↦ x.1 • x.2) z :=
```

File: Mathlib/Analysis/Analytic/Linear.lean [hunk 6]
```diff
@@ -149,3 +125,70 @@ protected theorem analyticAt_bilinear (f : E →L[𝕜] F →L[𝕜] G) (x : E 
 #align continuous_linear_map.analytic_at_bilinear ContinuousLinearMap.analyticAt_bilinear
 
 end ContinuousLinearMap
+
+variable (𝕜)
+
+lemma analyticAt_id (z : E) : AnalyticAt 𝕜 (id : E → E) z :=
+  (ContinuousLinearMap.id 𝕜 E).analyticAt z
+
+/-- Scalar multiplication is analytic (jointly in both variables). Statement is a little
```
Comment (jcommelin) [inline Mathlib/Analysis/Analytic/Linear.lean:134]:
```suggestion
/-- Scalar multiplication is analytic (jointly in both variables). The statement is a little
```

File: Mathlib/Analysis/Analytic/Linear.lean [hunk 7]
```diff
@@ -3,15 +3,15 @@ Copyright (c) 2021 Yury G. Kudryashov. All rights reserved.
...
+import Mathlib.Analysis.Analytic.Composition
 
 #align_import analysis.analytic.linear from "leanprover-community/mathlib"@"f2ce6086713c78a7f880485f7917ea547a215982"
 
 /-!
 # Linear functions are analytic
 
 In this file we prove that a `ContinuousLinearMap` defines an analytic function with
-the formal power series `f x = f a + f (x - a)`.
+the formal power series `f x = f a + f (x - a)`. We also prove similar results for multlinear maps.
```
Comment (jcommelin) [inline Mathlib/Analysis/Analytic/Linear.lean:14]:
```suggestion
the formal power series `f x = f a + f (x - a)`. We also prove similar results for multilinear maps.
```

**Comment by loefflerd** [comment]
Thanks for the review!

**Comment by loefflerd** [comment]
The previous CI run failed because of the (unrelated, sporadic) lean4checker ReduceBool glitch. I've merged master to force a new CI cycle.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
